US07612084B2
4-{4-[4-(2-Aminoethyl)phenoxy]butyl}-2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenol bis hydrochloride salt
tert-butyl{2-[4-(4-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)phenyl]ethyl}carbamate (Preparation 12, 450 mg, 0.75 mmol) was dissolved in dichloromethane (10 ml), hydrogen chloride (2M in diethyl ether, 6 ml, 12 mmol) was added followed by ethanol (1 ml). After 3 days, solvents removed in vacuo to furnish the title compound as a yellow foam, 420 mg.

reactant | tert-butyl{2-[4-(4-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)phenyl]ethyl}carbamate | 0.75 mmol, 450 mg | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OCCCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)=O | C38H54N2O4
reactant | hydrogen chloride | 12 mmol, 2M, 6 ml | Cl | ClH
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-{4-[4-(2-Aminoethyl)phenoxy]butyl}-2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenol bis hydrochloride salt | Cl.Cl.NCCC1=CC=C(OCCCCC2=CC(=C(C=C2)O)[C@H](CCN(C(C)C)C(C)C)C2=CC=CC=C2)C=C1 | InChI=1S/C33H46N2O2.2ClH/c1-25(2)35(26(3)4)22-20-31(29-11-6-5-7-12-29)32-24-28(15-18-33(32)36)10-8-9-23-37-30-16-13-27(14-17-30)19-21-34;;/h5-7,11-18,24-26,31,36H,8-10,19-23,34H2,1-4H3;2*1H/t31-;;/m1../s1
